US05041673
(±)-(3aR,9aR)-3a,4-Dihydro-2-phenyl-naphth-[2,3-d]-oxazol-9(9aH)-one
Under argon to a solution of (±)-(3aR,9aR)-3a, 4,9,9a-tetrahydro 2-phenyl-naphth-[2,3-d]oxazol-9-ol in methylene chloride (10 ml) was added Dess Martin periodinane (640 mg) and tert-butylalcohol (56 mg). After 5 hours stirring at room temperature, isopropanol was added and the reaction mixture was filtered on a silica gel column (elution with cyclohexane: ethyl acetate, 40:1). Evaporation of solvents gave the title compound as an oil (150 mg).

reactant | (±)-(3aR,9aR)-3a, 4,9,9a-tetrahydro 2-phenyl-naphth-[2,3-d]oxazol-9-ol | C1(=CC=CC=C1)C=1O[C@@H]2[C@H](N1)CC=1C=CC=CC1C2O | C17H15NO2
reactant | Dess Martin periodinane | 640 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butylalcohol | 56 mg | C(C)(C)(C)O | C4H10O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (±)-(3aR,9aR)-3a,4-Dihydro-2-phenyl-naphth-[2,3-d]-oxazol-9(9aH)-one | 150 mg | C1(=CC=CC=C1)C=1O[C@@H]2[C@H](N1)CC=1C=CC=CC1C2=O | C17H13NO2
